US08791134B2
Benzyl 4-{[2-(acetyloxy)phenyl]carbonyloxy}butanoate was synthesized from benzyl-4-bromo)butanoate, 2-(acetyloxy)benzoic acid and potassium carbonate. To a solution of benzyl-4-bromobutanoate (0.5 g, 1.9 mmol) in acetonitrile (5 ml) at ambient temperature was added potassium carbonate (0.28 g, 2.0 mmol) and 2-(acetyloxy)benzoic acid (0.35 g, 1.9 mmol). The reaction was heated to 90° C. for 18 hours and monitored by TLC (4:1 heptane:EtOAc) The mixture was allowed to cool to room temperature and concentrated in vacuo. The crude product was partitioned between water and EtOAc and the organic phase was separated, dried over Na2SO4, filtered and concentrated in vacuo. The title compound was purified by silica column chromatography eluting with heptane:EtOAc (4:1, v:v) and isolated as a clear, colorless oil (0.556 g, 81% yield). 1H NMR (250 MHz, DMSO-d6) δ 7.29-7.41 (5H, m), 5.09 (2H, s), 4.01 (2H, t, 6.5 Hz), 2.44 (2H, t, 7.3 Hz), 1.97 (3H, s), 1.85 (2H, quin, 6.9 Hz).

reactant | butanoate | C(CCC)(=O)[O-]
reactant | 2-(acetyloxy)benzoic acid | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl-4-bromobutanoate | 1.9 mmol, 0.5 g | C(C1=CC=CC=C1)OC(CCCBr)=O | C11H13BrO2
reactant | potassium carbonate | 2.0 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(acetyloxy)benzoic acid | 1.9 mmol, 0.35 g | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | Benzyl 4-{[2-(acetyloxy)phenyl]carbonyloxy}butanoate | C(C)(=O)OC1=C(C=CC=C1)C(=O)OCCCC(=O)OCC1=CC=CC=C1 | C20H20O6
